US05264443
3-(4-benzyloxyphenyl)5-methoxymethyl(R)2-oxazolidinone (MD 200404)
6.3 g sodium bicarbonate followed by 5.28 ml (55.10-3 mol) of ethyl chloroformate was added to a solution of 10 g (10-3 mol) of 4-benzyloxy aniline in 90 ml THF and 10 ml water. After agitation for 18 hours, the reaction medium was filtered and concentrated. The residue was dissolved in ethyl acetate. The organic solution was washed with water, dried on Na2SO4 and concentrated. The product was obtained with a 91% yield.

reactant | sodium bicarbonate | 6.3 g | C([O-])(O)=O.[Na+]
reactant | ethyl chloroformate | 55.10-3 mol, 5.28 ml | ClC(=O)OCC | C3H5ClO2
reactant | 4-benzyloxy aniline | 10-3 mol, 10 g | C(C1=CC=CC=C1)OC1=CC=C(N)C=C1 | C13H13NO
reactant | THF | 90 ml | C1CCOC1 | C4H8O
solvent | water | 10 ml | O | H2O
product | 3-(4-benzyloxyphenyl)5-methoxymethyl(R)2-oxazolidinone | 91% yield | C(C1=CC=CC=C1)OC1=CC=C(C=C1)N1C(O[C@H](C1)COC)=O | C18H19NO4
